US07125870B2
N-Hydroxy-2-{3-[4-(2-methyl-quinolin-4-ylmethoxy)-phenyl]-4,5-dihydro-isoxazol-5-yl}-acetamide
The {3-[4-(2-methyl-quinolin-4-ylmethoxy)-phenyl]-4,5-dihydro-isoxazol-5-yl}-acetic acid (0.15 g, 0.4 mmol) was combined with BOP (0.265 g, 0.6 mmol) and diisopropylethylamine (0.5 mL) in DMF (5 mL) under nitrogen atmosphere at room temperature. The reaction was stirred for 15 minutes, and then hydroxylamine hydrochloride (0.042 g, 0.6 mmol) was added. The reaction was stirred overnight, concentrated in vacuo, and triturated with water saturated KH2PO4 solution to give a precipitate. The crude product was purified by HPLC on a C-18 column eluting with an acetonitrile/water/TFA gradient to give the title compound (0.05 g, 25%) as an amorphous solid. MS found: (M+H)+=392.

reactant | {3-[4-(2-methyl-quinolin-4-ylmethoxy)-phenyl]-4,5-dihydro-isoxazol-5-yl}-acetic acid | 0.4 mmol, 0.15 g | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)C1=NOC(C1)CC(=O)O | C22H20N2O4
reactant | BOP | 0.6 mmol, 0.265 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | diisopropylethylamine | 0.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydroxylamine hydrochloride | 0.6 mmol, 0.042 g | Cl.NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-Hydroxy-2-{3-[4-(2-methyl-quinolin-4-ylmethoxy)-phenyl]-4,5-dihydro-isoxazol-5-yl}-acetamide | 0.05 g, 25% | ONC(CC1CC(=NO1)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)=O | C22H21N3O4
